US06953787B2
N-Trifluoroacetyl-8-bromo-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (0.710 g, 2.36 mmol) in acetonitrile (20 mL) was treated with N-bromosuccinimide (0.504 g, 2.83 mmol), and stirred overnight at 20 C. The product mixture was concentrated, diluted with EtOAc (100 mL), washed with water (50 mL) and brine (50 mL), dried with Na2SO4 and concentrated. Flash chromatography (10% EtOAc in hexanes, silica) resulted in 0.561 g of a clear oil. MS calculated for C15H17BrF3NO2+H: 380, observed: 380.

reactant | N-trifluoroacetyl-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.36 mmol, 0.710 g | FC(C(=O)N1CCC2=C(C(C1)CC)C=CC(=C2)OC)(F)F | C15H18F3NO2
reactant | N-bromosuccinimide | 2.83 mmol, 0.504 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-Trifluoroacetyl-8-bromo-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.561 g | FC(C(=O)N1CCC2=C(C(C1)CC)C=C(C(=C2)OC)Br)(F)F | C15H17BrF3NO2
